US05861417
5.1 Synthesis of (S)-1-(t-butoxycarbonyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine
Combine (S)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt (40 g, 59.0 mmol), N,N-diisopropylethylamine (20.6 mL), and dichloromethane (400 mL). Add dropwise a solution of di-t-butyl dicarbonate (14.2 g) in dichloromethane (100 mL). After 18 hours, extract the reaction mixture with saturated aqueous sodium bicarbonate| solution and then three times with water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 35% ethyl acetate/hexane and then 50% ethyl acetate/hexane to the title compound: Rf =0.16 (silica gel, 35% ethyl acetate/hexane).

reactant | (S)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt | 59.0 mmol, 40 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.ClC=1C=C(C=CC1Cl)[C@@]1(CNCC1)CCO
reactant | N,N-diisopropylethylamine | 20.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-t-butyl dicarbonate | 14.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | (S)-1-(t-butoxycarbonyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | C(C)(C)(C)OC(=O)N1C[C@@](CC1)(CCO)C1=CC(=C(C=C1)Cl)Cl | C17H23Cl2NO3
